US08557830B2
A solution of 5-(3-(9-(4-methoxybenzyl)-9H-purin-6-yl)pyridin-2-yloxy)-N-(4-chlorophenyl)-6-methylisoquinolin-1-amine (0.22 g, 0.37 mmol) in TFA (5 mL) was stirred in a 65° C. oil bath for 3.5 h. The TFA was removed in vacuo and the residue was dissolved in MeOH (50 mL) and 2 M NH3 in MeOH (50 mL) and adsorbed onto a pad of silica gel. The crude product was chromatographed through a Redi-Sep® pre-packed silica gel column (12 g), eluting with a gradient of 1% to 8% 1 M NH3.MeOH in CH2Cl2 (over 20 min), to give 5-(3-(9H-purin-6-yl)pyridin-2-yloxy)-N-(4-chlorophenyl)-6-methylisoquinolin-1-amine as a white solid. 1H NMR (400 MHz, DMSO-d6) □ ppm 2.23 (s, 3H), 7.24-7.33 (m, 2H), 7.35 (d, J=8.53 Hz, 2H), 7.53 (d, J=8.53 Hz, 1H), 7.88-7.97 (m, 3H), 8.13 (d, J=5.02 Hz, 1H), 8.24 (d, J=7.53 Hz, 1H), 8.34 (d, J=8.53 Hz, 1H), 8.68 (s, 1H), 9.07 (s, 1H), 9.27 (s, 1H), 13.64 (s, 1H); MS (ESI, pos. ion) m/z: 480.1 [M+H]+

reactant | 5-(3-(9-(4-methoxybenzyl)-9H-purin-6-yl)pyridin-2-yloxy)-N-(4-chlorophenyl)-6-methylisoquinolin-1-amine | 0.37 mmol, 0.22 g | COC1=CC=C(CN2C3=NC=NC(=C3N=C2)C=2C(=NC=CC2)OC2=C3C=CN=C(C3=CC=C2C)NC2=CC=C(C=C2)Cl)C=C1 | C34H26ClN7O2
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-(3-(9H-purin-6-yl)pyridin-2-yloxy)-N-(4-chlorophenyl)-6-methylisoquinolin-1-amine | N1=CN=C2NC=NC2=C1C=1C(=NC=CC1)OC1=C2C=CN=C(C2=CC=C1C)NC1=CC=C(C=C1)Cl | C26H18ClN7O
